US08492405B2
A mixture of 4-bromo-5-methylthiophene-2-carbaldehyde (6.0 g), ethylene glycol (100 mL), p-toluenesulfonic acid (2 mL) and toluene (100 mL) was heated under reflux for 5 hr with a Dean-Stark trap. The reaction mixture was washed with water and saturated brine, and the obtained organic layer was dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give 2-(4-bromo-5-methyl-2-thienyl)-1,3-dioxolane (6.96 g, yield 93%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:5, volume ratio).

reactant | 4-bromo-5-methylthiophene-2-carbaldehyde | 6.0 g | BrC=1C=C(SC1C)C=O | C6H5BrOS
reactant | ethylene glycol | 100 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 2 mL | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-bromo-5-methyl-2-thienyl)-1,3-dioxolane | 6.96 g, yield 93% | BrC=1C=C(SC1C)C1OCCO1 | C8H9BrO2S
